US07666888B2
1-[(5-Methyl-3-phenylisoxazol-4-yl)carbonyl]-4-(2-oxo-2-pyrrolidin-1-ylethyl)piperazine
5-Methyl-3-phenylisooxazole-4-carboxylic acid (40 mg, 0.197 mmol), piperazine acetic acid pyrrolidid (42.4 mg, 0.215 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (86.2 mg, 0.268 mmol) and diisopropylethylamine (25.4 mg, 0.197 mmol) were mixed in dimethylformamide (1.5 mL) and stirred at room temperature. Solvent was evaporated in vacuo, and the residue was taken up in methanol (1 mL), filtered and purified by preparative chromatography. The combined fractions were partitioned between NaHCO3 (sat) and ethylacetate. The organic layer was washed with water and concentrated in vacuo to afford the title compound. HRMS (ESI, pos. ion) m/z calcd for C21H26N4O3: 382.2005, found 382.2016.

reactant | 5-Methyl-3-phenylisooxazole-4-carboxylic acid | 0.197 mmol, 40 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | piperazine acetic acid pyrrolidid | 0.215 mmol, 42.4 mg | N1(CCNCC1)CC(=O)N1CCCC1 | C10H19N3O
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.268 mmol, 86.2 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.197 mmol, 25.4 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-[(5-Methyl-3-phenylisoxazol-4-yl)carbonyl]-4-(2-oxo-2-pyrrolidin-1-ylethyl)piperazine | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)N1CCN(CC1)CC(N1CCCC1)=O | C21H26N4O3
